2119-06-25 07:49:00 Physician Resident Progress Note
Chief Complaint: Hypoxia
   24 Hour Events:
 FEVER - 101.2
F - [**2119-6-25**] 04:00 AM Pt started on ceftriaxone and
   azithromycin for CAP. Placed on CPAP overnight for OSA. This am pt had
   brief episode of central chest tightness, worse with coughing. No ECG
   changes. Pain on palpation of chest. Relieved with 2mg morphine IV X1.
   History obtained from [**Hospital 85**] Medical records
   Allergies:
   History obtained from [**Hospital 85**] Medical recordsNo Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2119-6-24**] 10:00 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium - [**2119-6-24**] 04:00 PM
   Other medications:
   Changes to medical and family history: None
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2119-6-25**] 07:48 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.4
C (101.2
   Tcurrent: 38.4
C (101.2
   HR: 101 (89 - 120) bpm
   BP: 101/65(72) {98/59(67) - 152/99(106)} mmHg
   RR: 28 (17 - 38) insp/min
   SpO2: 92%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 66 Inch
             Total In:
                                                                  1,248 mL
                                                                    578 mL
   PO:
                                                                    935 mL
             TF:
   IVF:
                                                                    313 mL
                                                                    578 mL
   Blood products:
   Total out:
                                                                  1,900 mL
                                                                  1,250 mL
   Urine:
                                                                  1,900 mL
                                                                  1,250 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -653 mL
                                                                   -671 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   SpO2: 92%
   ABG: ///25/
   Physical Examination
   General Appearance: Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: S4
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Crackles : dry throughout, Diminished: throughout)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Skin:  Warm
   Neurologic: Attentive, Responds to: Not assessed, Movement: Not
   assessed, Tone: Not assessed
   Labs / Radiology
   214 K/uL
   12.9 g/dL
   179 mg/dL
   0.9 mg/dL
   25 mEq/L
   4.1 mEq/L
   10 mg/dL
   96 mEq/L
   132 mEq/L
   38.6 %
   12.7 K/uL
        [image002.jpg]
                             [**2119-6-25**]  03:04 AM
   WBC
   12.7
   Hct
   38.6
   Plt
   214
   Cr
   0.9
   Glucose
   179
   Other labs: PT / PTT / INR:15.5/32.5/1.4, Ca++:8.7 mg/dL, Mg++:2.0
   mg/dL, PO4:2.6 mg/dL
   Imaging: [**6-24**] CTA Chest .
   1. No pulmonary embolism.
   2. Diffuse ground glass centrilobular airspace opacities. Appearance is
   somewhat nonspecific, and differential diagnosis includes multifocal
   pneumonia
   (particularly viral etiologies), diffuse alveolar injury or hemorrhage,
   and
   drug reaction. Pulmonary edema may be less likely given absence of
   significant septal thickening or effusions. Fulminant progression of
   idiopathic pulmonary fibrosis is also possible.
   Microbiology: [**2119-6-24**] 11:44 pm BLOOD CULTURE     Site: ARM
      Blood Culture, Routine (Pending):
   Assessment and Plan
   51 y/o M w/IPF and baseline hypoxemia who presents with worsening
   dyspnea, cough, and hemoptysis.
    .
   1. Respiratory failure:  He is currently tachypneic in the 30s-40s and
   requiring a NRB but at this point does not need intubation.  The most
   likely etiology of his worsening hypoxia is bacterial pneumonia, given
   his abrupt worsening of symptoms over 2 days, chills, yellow sputum,
   and CT findings.  Other causes of pneumonia (fungal/PCP) are less
   likely as he is not immunosuppressed.  Viral pneumonia is also possible
   but wouldn't expect the consolidation on CT.  Also of concern is that
   this could represent a worsening of his IPF, given that the past 2 days
   of increased dyspnea are on a background of a few weeks of worsening
   dyspnea.  Pulmonary edema is much less likely given the normal BNP and
   CT findings not suggestive of this.  There is concern he could have
   pulmonary hypertension due to his underlying lung disease as a cause of
   his hypoxia but he certainly has enough parenchymal findings on CT to
   explain this.  He does not have any signs of R heart failure on exam.
   The hemoptysis is likely due to infection but will closely monitor for
   signs that this is DAH.
   - treat for community-acquired pneumonia with ceftriaxone and
   azithromycin (given hospitalized in ICU)
   -send sputum cx, urine legionella antigen
   - given failure to improve, will start empiric steroids for worsening
   IPF
 plan for 3 days of pulse dose steroids solu-medrol 500mg IV daily
    .
   2. Chest pain: Likely related to coughing.  ECG unchanged, cardiac
   enzymes negative.  Will not cycle enzymes.  Tachycardia likely related
   to respiratory distress.  No PE.
   .
   3. DM: Cont lantus, metformin, insulin sliding scale.
   .
   4. HTN: Cont atenolol.
   .
   5. OSA:  Cont CPAP at night (pt gets 12 cm H2O through nasal mask).
   6. GERD: Cont PPI.
   ICU Care
   Nutrition:
   Comments: Diabetic diet
   Glycemic Control:
   Lines:
   18 Gauge - [**2119-6-24**] 06:42 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , Family
   meeting held  Comments:
   Code status: DNI (do not intubate)
   Disposition:ICU

2119-06-25 11:00:00 Physician Attending Progress Note
Chief Complaint: respiratory distress
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   51 yo with IPF and worsening respiratory distress
   24 Hour Events:
 FEVER - 101.2
F - [**2119-6-25**] 04:00 AM
   Lot of coughing overnight with chest pain
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2119-6-25**] 09:51 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium - [**2119-6-24**] 04:00 PM
   Other medications:
   prilosec
   ASA
   celexa
   wellbutrin
   atenolol
   azithromycin
   glargine
   SSI
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Respiratory: Dyspnea
   Flowsheet Data as of  [**2119-6-25**] 10:59 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.4
C (101.2
   Tcurrent: 36.2
C (97.2
   HR: 77 (77 - 114) bpm
   BP: 95/66(73) {95/59(67) - 146/99(106)} mmHg
   RR: 24 (17 - 38) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 66 Inch
             Total In:
                                                                  1,248 mL
                                                                    976 mL
   PO:
                                                                    935 mL
                                                                    120 mL
   TF:
   IVF:
                                                                    313 mL
                                                                    856 mL
   Blood products:
   Total out:
                                                                  1,900 mL
                                                                  1,250 mL
   Urine:
                                                                  1,900 mL
                                                                  1,250 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -653 mL
                                                                   -274 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   SpO2: 93%
   ABG: ///25/
   Physical Examination
   General Appearance: Well nourished, Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Present), (Left DP pulse:
   Present)
   Respiratory / Chest: (Breath Sounds: Crackles : dry b/l crackles,
   Bronchial: Right base)
   Abdominal: Soft, Non-tender
   Extremities: Right: Absent, Left: Absent
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   12.9 g/dL
   214 K/uL
   179 mg/dL
   0.9 mg/dL
   25 mEq/L
   4.1 mEq/L
   10 mg/dL
   96 mEq/L
   132 mEq/L
   38.6 %
   12.7 K/uL
        [image002.jpg]
                             [**2119-6-25**]  03:04 AM
   WBC
   12.7
   Hct
   38.6
   Plt
   214
   Cr
   0.9
   Glucose
   179
   Other labs: PT / PTT / INR:15.5/32.5/1.4, Ca++:8.7 mg/dL, Mg++:2.0
   mg/dL, PO4:2.6 mg/dL
   Imaging: CXR:  Worsening b/l infilatrates
   Assessment and Plan
   Respiratory Distress:  Worsening IPF with ? of infection.  Continue
   azithormycin and CTX.  Because CXR looks worse, will try pulse dose
   steroids - solumedrol 500mg qd for three days.
   Chest Pain and cough:  Will add tessalon [**Doctor Last Name 1123**] for cough.
   DM: On [**Last Name (LF) 3186**], [**First Name3 (LF) 178**] likely get hyperglycemic with high dose steroids,
   so increase SSI.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2119-6-24**] 06:42 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35  minutes
   Patient is critically ill

2119-06-26 07:17:00 Physician Resident Progress Note
Chief Complaint: IPF
   24 Hour Events:
   Sats ranging from 70s-80s overnight on high flow mask and 6L nasal
   cannula.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2119-6-25**] 09:51 AM
   Infusions:
   Other ICU medications:
   Lorazepam (Ativan) - [**2119-6-25**] 03:00 PM
   Morphine Sulfate - [**2119-6-25**] 08:30 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2119-6-26**] 07:15 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.7
   Tcurrent: 36.8
C (98.3
   HR: 110 (77 - 111) bpm
   BP: 129/62(79) {95/62(73) - 169/118(121)} mmHg
   RR: 25 (24 - 41) insp/min
   SpO2: 84%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 66 Inch
             Total In:
                                                                  2,119 mL
                                                                    538 mL
   PO:
                                                                    270 mL
             TF:
   IVF:
                                                                  1,849 mL
                                                                    538 mL
   Blood products:
   Total out:
                                                                  2,800 mL
                                                                      0 mL
   Urine:
                                                                  2,800 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -681 mL
                                                                    539 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   SpO2: 84%
   ABG: ///26/
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Musculoskeletal: Muscle wasting
   Skin:  Warm
   Neurologic: Attentive, Responds to: Not assessed, Movement: Not
   assessed, Tone: Not assessed
   Labs / Radiology
   215 K/uL
   13.4 g/dL
   213 mg/dL
   1.0 mg/dL
   26 mEq/L
   4.2 mEq/L
   21 mg/dL
   96 mEq/L
   130 mEq/L
   41.0 %
   11.0 K/uL
        [image002.jpg]
                             [**2119-6-25**]  03:04 AM
                             [**2119-6-26**]  03:53 AM
   WBC
   12.7
   11.0
   Hct
   38.6
   41.0
   Plt
   214
   215
   Cr
   0.9
   1.0
   Glucose
   179
   213
   Other labs: PT / PTT / INR:15.5/32.5/1.4, Ca++:8.7 mg/dL, Mg++:2.4
   mg/dL, PO4:3.1 mg/dL
   CXR [**6-25**] -
   CHEST:
   Degree of opacification in both lungs is probably unchanged since prior
   chest
   x-ray. While small effusions cannot be excluded, no large effusion is
   present, and there has been no increase in the cardiac size, which
   makes the
   increased opacification more likely due to some inflammatory condition
   on top
   of the fibrosis rather than failure.
   Blood Cx - NGTD
   Assessment and Plan
   51 y/o M w/IPF and baseline hypoxemia who presents with worsening
   dyspnea, cough, and hemoptysis.
    .
   1. Respiratory failure:  He is currently tachypneic in the 30s-40s and
   requiring a NRB but at this point does not need intubation.  The most
   likely etiology of his worsening hypoxia is bacterial pneumonia, given
   his abrupt worsening of symptoms over 2 days, chills, yellow sputum,
   and CT findings.  Other causes of pneumonia (fungal/PCP) are less
   likely as he is not immunosuppressed.  Viral pneumonia is also possible
   but wouldn't expect the consolidation on CT.  Also of concern is that
   this could represent a worsening of his IPF, given that the past 2 days
   of increased dyspnea are on a background of a few weeks of worsening
   dyspnea.  Pulmonary edema is much less likely given the normal BNP and
   CT findings not suggestive of this.  There is concern he could have
   pulmonary hypertension due to his underlying lung disease as a cause of
   his hypoxia but he certainly has enough parenchymal findings on CT to
   explain this.  He does not have any signs of R heart failure on exam.
   The hemoptysis is likely due to infection but will closely monitor for
   signs that this is DAH.
   - treat for community-acquired pneumonia with ceftriaxone and
   azithromycin (given hospitalized in ICU)
   -send sputum cx, urine legionella antigen
   - given failure to improve, will start empiric steroids for worsening
   IPF
 plan for 3 days of pulse dose steroids solu-medrol 500mg IV daily
    .
   2. Chest pain: Likely related to coughing.  ECG unchanged, cardiac
   enzymes negative.  Will not cycle enzymes.  Tachycardia likely related
   to respiratory distress.  No PE.
   .
   3. DM: Cont lantus, metformin, insulin sliding scale.
   .
   4. HTN: Cont atenolol.
   .
   5. OSA:  Cont CPAP at night (pt gets 12 cm H2O through nasal mask).
   6. GERD: Cont PPI.
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   18 Gauge - [**2119-6-24**] 06:42 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition:ICU

2119-06-26 11:43:00 Physician Attending Progress Note
Chief Complaint: resp failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   51 yo man with IPF, progressive resp failure, on pulse dose steroids
   with no improvement. DNR/DNI.
   24 Hour Events:
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2119-6-26**] 10:00 AM
   Infusions:
   Other ICU medications:
   Lorazepam (Ativan) - [**2119-6-25**] 03:00 PM
   Morphine Sulfate - [**2119-6-25**] 08:30 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH, Review of systems is unchanged from admission except as
   noted below
   Review of systems:
   Flowsheet Data as of  [**2119-6-26**] 11:42 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.7
   Tcurrent: 35.9
C (96.6
   HR: 98 (82 - 111) bpm
   BP: 154/101(116) {108/62(79) - 169/118(167)} mmHg
   RR: 26 (23 - 41) insp/min
   SpO2: 88%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 66 Inch
             Total In:
                                                                  2,119 mL
                                                                  1,040 mL
   PO:
                                                                    270 mL
                                                                    405 mL
   TF:
   IVF:
                                                                  1,849 mL
                                                                    635 mL
   Blood products:
   Total out:
                                                                  2,800 mL
                                                                    600 mL
   Urine:
                                                                  2,800 mL
                                                                    600 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -681 mL
                                                                    440 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula, High flow neb
   SpO2: 88%
   ABG: ///26/
   Physical Examination
   General Appearance: Well nourished, No acute distress, No(t) Anxious
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) S3, (Murmur: No(t)
   Systolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present)
   Respiratory / Chest: (Breath Sounds: Crackles : coarse) Moderate air
   movement.
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent edema
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Purposeful, Tone: Not assessed
   Labs / Radiology
   13.4 g/dL
   215 K/uL
   213 mg/dL
   1.0 mg/dL
   26 mEq/L
   4.2 mEq/L
   21 mg/dL
   96 mEq/L
   130 mEq/L
   41.0 %
   11.0 K/uL
        [image002.jpg]
                             [**2119-6-25**]  03:04 AM
                             [**2119-6-26**]  03:53 AM
   WBC
   12.7
   11.0
   Hct
   38.6
   41.0
   Plt
   214
   215
   Cr
   0.9
   1.0
   Glucose
   179
   213
   Other labs: PT / PTT / INR:15.5/32.5/1.4, Ca++:8.7 mg/dL, Mg++:2.4
   mg/dL, PO4:3.1 mg/dL
   Microbiology: sputae neg x 4
   CXR: (my read) bilateral diffuse opacification lower [**2-12**] lung fields
   Assessment and Plan
   IPF with acute decompensation. On empiric solumedrol 500mg (day 2 of
   3), empiric antibiotics.
   Start NAC, considering high dose supplemental oxygen.
   Contact [**Name (NI) 183**] transplant service regarding weight issue and whether he
   was listed.
   Will let Dr [**First Name4 (NamePattern1) 955**] [**Last Name (NamePattern1) **] and Dr [**First Name4 (NamePattern1) 391**] [**Last Name (NamePattern1) 612**] know he is here (pulm
   clinic docs).
   Would use NIPPV if he tires or develops resp acidosis.
   DNR
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2119-6-24**] 06:42 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2119-06-28 09:38:00 Physician Attending Progress Note
Chief Complaint:
   HPI:
   24 Hour Events:
 MIDLINE - START [**2119-6-27**] 06:07 PM
   specifically r cephalic
   C/o significantly more chest pain this morning.  Appears more short of
   breath as well.  Given more aggressive analgesia with morphine gtt.
   Patient unable to provide history: Unresponsive
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2119-6-27**] 10:00 AM
   Infusions:
   Morphine Sulfate - 4 mg/hour
   Other ICU medications:
   Lorazepam (Ativan) - [**2119-6-28**] 09:00 AM
   Morphine Sulfate - [**2119-6-28**] 09:22 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2119-6-28**] 09:38 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.5
   Tcurrent: 35
C (95
   HR: 98 (80 - 106) bpm
   BP: 141/90(103) {121/76(89) - 175/127(153)} mmHg
   RR: 33 (22 - 34) insp/min
   SpO2: 84%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 66 Inch
             Total In:
                                                                  1,590 mL
                                                                     53 mL
   PO:
                                                                  1,300 mL
             TF:
   IVF:
                                                                    290 mL
                                                                     53 mL
   Blood products:
   Total out:
                                                                  2,075 mL
                                                                      0 mL
   Urine:
                                                                  2,075 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -485 mL
                                                                     53 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   SpO2: 84%
   ABG: ////
   Physical Examination
   General Appearance: Somnolent
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   B/L at bases)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Skin:  Not assessed, No(t) Rash:
   Neurologic: Responds to: Noxious stimuli, Movement: Non -purposeful,
   Tone: Not assessed
   Labs / Radiology
   13.4 g/dL
   215 K/uL
   201 mg/dL
   0.8 mg/dL
   29 mEq/L
   6.1 mEq/L
   26 mg/dL
   98 mEq/L
   132 mEq/L
   41.0 %
   11.0 K/uL
        [image002.jpg]
                             [**2119-6-25**]  03:04 AM
                             [**2119-6-26**]  03:53 AM
                             [**2119-6-27**]  04:46 AM
   WBC
   12.7
   11.0
   Hct
   38.6
   41.0
   Plt
   214
   215
   Cr
   0.9
   1.0
   0.8
   Glucose
   179
   213
   201
   Other labs: PT / PTT / INR:15.5/32.5/1.4, Ca++:8.6 mg/dL, Mg++:2.7
   mg/dL, PO4:3.2 mg/dL
   Assessment and Plan
   51 y/o M w/IPF and baseline hypoxemia who presents with worsening
   dyspnea, cough, and hemoptysis.
    Has had a significant decline in clinical status, with tachypnea,
   chest pain and mental status overnight.  Now barely responsive.
   Patient and family had long discussion with ICU team and palliative
   care yesterday in which main goal of being comfortable was expressed.
   As such we will focus on this today and continue with morphine drip and
   titrate to respiratory comfort.  [**Name (NI) 552**] wife and sister were called
   and updated regarding his change in status.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2119-6-26**] 11:00 AM
   Midline - [**2119-6-27**] 06:07 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Comfort measures only
   Disposition :Transfer to floor
   Total time spent: 30 minutes
   Patient is critically ill